US04329347
6-[4-(3-Methylphenyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 6-[4-(3-methylphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[4-(3-methylphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | CC=1C=C(C=CC1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(3-Methylphenyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril | CC=1C=C(C=CC1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO3S
